US07705145B2
Sodium dithionite (89%, 81.4 kg) was added to a stirred slurry of 4-methoxy-5-(3-morpholinopropoxy)-2-nitrobenzonitrile (48.8 kg) in water (867 liters) and the resultant mixture was heated to 50° C. for approximately 2 hours to complete the reaction. The temperature of the reaction mixture was raised to approximately 70° C. and a concentrated aqueous hydrochloric acid solution (36%, 270 kg) was added over 3 hours. The resultant mixture was cooled to 20-25° C. and sodium hydroxide liquor (47%, 303.7 kg) was added whilst stirring of the reaction mixture was continued. The reaction mixture was extracted with two portions of methylene chloride (1082 kg and 541 kg respectively) and the combined organic extracts were washed with water (510 liters). The organic phase was concentrated by distillation to remove 800 liters of solvent. There was thus obtained a methylene chloride solution (503.5 kg) containing 2-amino-4-methoxy-5-(3-morpholinopropoxy)benzonitrile (46.3 kg, 99% yield) suitable for use in the next stage.

reactant | Sodium dithionite | 81.4 kg | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 4-methoxy-5-(3-morpholinopropoxy)-2-nitrobenzonitrile | 48.8 kg | COC1=CC(=C(C#N)C=C1OCCCN1CCOCC1)[N+](=O)[O-] | C15H19N3O5
reactant | hydrochloric acid | 270 kg | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 867 liters | O | H2O
product | 2-amino-4-methoxy-5-(3-morpholinopropoxy)benzonitrile | 46.3 kg, 99% yield | NC1=C(C#N)C=C(C(=C1)OC)OCCCN1CCOCC1 | C15H21N3O3
